US08541411B2
Preparation of 4-bromo-2-methyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole
A suspension of 4-bromo-2-methyl-6-(4-morpholinyl)-1H-benzimidazole, prepared as described in Example 62 (500 mg, 1.688 mmol) and potassium carbonate (700 mg, 5.06 mmol) in N,N-Dimethylformamide (DMF) (6 mL) was stirred at rt for 15 min. 1-(bromomethyl)-2-methyl-3-(trifluoromethyl)benzene (641 mg, 2.53 mmol) was added in and the resulting reaction mixture was stirred for 3 h at 80° C. It was then cooled to room temperature and poured into ice/water. The precipitate was collected by filtration, washed with water, then few mLs of hexanes and air dried. The crude material was purified on a silica gel column (ISCO, 0-80% EtOAc in hexanes) to the desired product (565 mg, 1.182 mmol, 70.0% yield). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.59 (d, J=7.83 Hz, 1H), 7.16 (d, J=2.02 Hz, 1H), 7.10-7.15 (m, 1H), 6.46-6.52 (m, 2H), 5.25 (s, 2H), 3.75-3.89 (m, 4H), 3.05-3.14 (m, 4H), 2.55 (s, 3H), 2.51 (s, 3H). MS (ES+) m/e 468.9 [M+H]+.

reactant | 4-bromo-2-methyl-6-(4-morpholinyl)-1H-benzimidazole | BrC1=CC(=CC=2NC(=NC21)C)N2CCOCC2 | C12H14BrN3O
reactant | potassium carbonate | 5.06 mmol, 700 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(bromomethyl)-2-methyl-3-(trifluoromethyl)benzene | 2.53 mmol, 641 mg | BrCC1=C(C(=CC=C1)C(F)(F)F)C | C9H8BrF3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | N,N-Dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 4-bromo-2-methyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole | 1.182 mmol, 565 mg, 70.0% yield | BrC1=CC(=CC=2N(C(=NC21)C)CC2=C(C(=CC=C2)C(F)(F)F)C)N2CCOCC2 | C21H21BrF3N3O
